US08613914B2
[(S)-[(S)-2-{(5R,8S)-10,10-Dimethyl-8-[(1R,2S)-1-(pyrrolidine-1-sulfonylaminocarbonyl)-2-vinyl-cyclopropylcarbamoyl]-7-aza-dispiro[3.0.4.1]dec-7-yl}-2-oxo-1-(tetrahydro-pyran-4-yl)-ethylcarbamoyl]-(1-methyl-cyclohexyl)-methyl]-carbamic acid tert-butyl ester
A solution of (S)-tert-Butoxycarbonylamino-(1-methyl-cyclohexyl)-acetic acid (0.15 g; 0.55 mmol) (prepared according to Tetrahedron Let. 2007, 48, 6343-6347) and HATU (0.31 g; 0.82 mmol) in DCM (15 mL) was stirred for 30 min at ambient temperature. After addition of DIPEA (0.56 mL; 3.27 mmol) and (5R,8S)-7-[(S)-2-Amino-2-(4-methyl-tetrahydro-pyran-4-yl)-acetyl]-10,10-dimethyl-7-aza-dispiro-[3.0.4.1]decane-8-carboxylic acid [(1R,2S)-1-(pyrrolidine-1-sulfonylaminocarbonyl)-2-vinyl-cyclopropyl]-amide (0.412 g; 0.55 mmol) in DCM (5 mL) the reaction mixture was stirred for 3 h, the solvent was removed in vacuo and the residue was purified by preparative HPLC (method L) to yield the title compound. LC-MS (method E): Rt=2.78 min; M/z=859 [M+], HPLC (method A3) Rt=6.81 min

reactant | (S)-tert-Butoxycarbonylamino-(1-methyl-cyclohexyl)-acetic acid | 0.55 mmol, 0.15 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1(CCCCC1)C | C14H25NO4
reactant | HATU | 0.82 mmol, 0.31 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3.27 mmol, 0.56 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (5R,8S)-7-[(S)-2-Amino-2-(4-methyl-tetrahydro-pyran-4-yl)-acetyl]-10,10-dimethyl-7-aza-dispiro-[3.0.4.1]decane-8-carboxylic acid [(1R,2S)-1-(pyrrolidine-1-sulfonylaminocarbonyl)-2-vinyl-cyclopropyl]-amide | 0.55 mmol, 0.412 g | N1(CCCC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1N(C[C@]2(C3(CCC3)C2(C)C)C1)C([C@H](C1(CCOCC1)C)N)=O | C30H47N5O6S
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | [(S)-[(S)-2-{(5R,8S)-10,10-Dimethyl-8-[(1R,2S)-1-(pyrrolidine-1-sulfonylaminocarbonyl)-2-vinyl-cyclopropylcarbamoyl]-7-aza-dispiro[3.0.4.1]dec-7-yl}-2-oxo-1-(tetrahydro-pyran-4-yl)-ethylcarbamoyl]-(1-methyl-cyclohexyl)-methyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C1(CCCCC1)C)C(N[C@H](C(=O)N1C[C@]2(C3(CCC3)C2(C)C)C[C@H]1C(N[C@]1([C@@H](C1)C=C)C(=O)NS(=O)(=O)N1CCCC1)=O)C1CCOCC1)=O)=O | C43H68N6O9S
